US04271163
5.0 g (24.8 millimoles) of 2-(p-aminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one, 5.2 g (30.0 millimoles) of 2,2-dichlorocyclopropanecarboxylic acid chloride and 100 ml of absolute tetrahydrofuran are refluxed for 6 hours. The product is filtered off at 10° C., washed with water and recrystallized from a dimethylformamide/water mixture. 4.1 g (49% of theory) of 2-[p-(2,2-dichlorocyclopropylcarbonylamino)-phenyl]-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one are obtained as colorless crystals, of melting point 264°-265° C.

reactant | 2-(p-aminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 24.8 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C11H11N3O
reactant | 2,2-dichlorocyclopropanecarboxylic acid chloride | 30.0 millimoles, 5.2 g | ClC1(C(C1)C(=O)Cl)Cl | C4H3Cl3O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-[p-(2,2-dichlorocyclopropylcarbonylamino)-phenyl]-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 4.1 g, 49% | ClC1(C(C1)C(=O)NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O)Cl | C15H13Cl2N3O2
